US08558014B2
3-(Isobutylamino)-1-(thiophen-2-yl)propan-1-ol (I, R1=thiophen-2-yl, R2=methyl)
To a mixture of 3-(isobutylamino)-1-(thiophen-2-yl)propan-1-one hydrochloride (4.2 g, 19.4 mmol) and ethanol (10 mL) at 4° C. sodium hydroxide (1.6 g of a 50% aqueous solution) was added in about 20 minutes. Afterwards, neat sodium borhydride (0.37 g, 9.7 mmol, 1.0 eq) was added in several portions in about 30 minutes. At the end of the addition, the suspension was stirred for 4 h at the same temperature, then acetone (10.0 mL) was added dropwise in 20 minutes and the mixture was stirred for 10 additional minutes. Afterwards the precipitate was removed by filtration and the mixture was concentrated under vacuum affording an orange oil. The crude product was purified by column chromatography using a 40:10:1 (v:v:v) mixture of methylene chloride/methanol/ammonium hydroxide (25% aqueous solution) affording 3.1 g (76% yield) of product.

reactant | 3-(isobutylamino)-1-(thiophen-2-yl)propan-1-one hydrochloride | 19.4 mmol, 4.2 g | Cl.C(C(C)C)NCCC(=O)C=1SC=CC1
reactant | ethanol | 10 mL | C(C)O | C2H6O
reactant | sodium hydroxide | [OH-].[Na+]
reactant | sodium | [Na] | Na
solvent | acetone | 10.0 mL | CC(=O)C | C3H6O
product | 3-(Isobutylamino)-1-(thiophen-2-yl)propan-1-ol | 3.1 g, 76% yield | C(C(C)C)NCCC(O)C=1SC=CC1 | C11H19NOS
